US09163008B2
To a mixture of 2-chloro-6-(N-((2,2-dimethyl-1,3-dioxolan-4-yl)methyl)methylsulfonamido)pyrimidine-4-carboxamide (0.365 g, 1.00 mmol) in dioxane (5 mL) was added 2-(4-(4-fluorophenoxy)phenyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane (0.379 g, 1.21 mmol), 2M aqueous Na2CO3 (1.0 mL, 2.0 mmol), and PdCl2(dppf) (0.046 g, 0.056 mmol). The reaction vessel was flushed with argon, sealed, and heated at 80° C. overnight. After cooling, the reaction mixture was evaporated in vacuo to a residue. The residue was chromatographed over silica gel with 30-80% EtOAc in hexanes. The product fractions were evaporated to a residue and triturated with 5 mL 1:1 EtOAc/hexanes. The solid was filtered off, rinsed twice with 1 mL 1:1 EtOAc/hexanes, and dried under vacuum at 40° C. to give 6-(N-((2,2-dimethyl-1,3-dioxolan-4-yl)methyl)methylsulfonamido)-2-(4-(4-fluorophenoxy)phenyl)pyrimidine-4-carboxamide as a tan-orange powder (0.416 g, 0.805 mmol, 80% yield). 1H NMR (400 MHz, DMSO-d6): 8.61-8.55 (3H, m), 8.01 (1H, s), 7.94-7.91 (1H, m), 7.33-7.26 (2H, m), 7.23-7.17 (2H, m), 7.10 (2H, d, J=9.0 Hz), 4.44-4.37 (1H, m), 4.35-4.28 (1H, m), 4.22-4.15 (1H, m), 4.07 (1H, dd, J=8.8 Hz, 6.6 Hz), 3.81 (1H, dd, J=8.6 Hz, 5.3 Hz), 3.52 (3H, s), 1.35 (3H, s), 1.23 (3H, s). LC/MS: m/z=517.2 [M+H]+.

reactant | 2-chloro-6-(N-((2,2-dimethyl-1,3-dioxolan-4-yl)methyl)methylsulfonamido)pyrimidine-4-carboxamide | 1.00 mmol, 0.365 g | ClC1=NC(=CC(=N1)C(=O)N)N(S(=O)(=O)C)CC1OC(OC1)(C)C | C12H17ClN4O5S
reactant | 2-(4-(4-fluorophenoxy)phenyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 1.21 mmol, 0.379 g | FC1=CC=C(OC2=CC=C(C=C2)B2OC(C(O2)(C)C)(C)C)C=C1 | C18H20BFO3
reactant | Na2CO3 | 2.0 mmol, 2M, 1.0 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
catalyst | PdCl2(dppf) | 0.056 mmol, 0.046 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 6-(N-((2,2-dimethyl-1,3-dioxolan-4-yl)methyl)methylsulfonamido)-2-(4-(4-fluorophenoxy)phenyl)pyrimidine-4-carboxamide | 0.805 mmol, 0.416 g, 80% yield | CC1(OCC(O1)CN(S(=O)(=O)C)C1=CC(=NC(=N1)C1=CC=C(C=C1)OC1=CC=C(C=C1)F)C(=O)N)C | C24H25FN4O6S
